US08236824B2
1.4 3-Benzyloxy-5-isopropoxy-benzoic acid (0.86 mmol) is dissolved in thionyl chloride (1.6 ml) and heated to 70° C. for one hour. After cooling to RT, the solvent is removed in vacuo. The residue is dissolved in dichloromethane and triethylamine (1.5 eq.) and 1-pyridine-2-ylmethyl-1H-pyrazole-3-ylamine (1.2 eq.) are added. The reaction is stirred 16 hours at RT. 3-Benzyloxy-5-isopropoxy-N-(1-pyridine-2-ylmethyl-1H-pyrazole-3-yl)-benzamide is obtained after column chromatography (heptane/ethyl acetate) as a colorless powder in a yield of 43%; HPLC (Method B): 3.21 min; LC-MS: 2.285 min, 443.15 (M+H+);

reactant | 3-Benzyloxy-5-isopropoxy-benzoic acid | 0.86 mmol | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)OC(C)C | C17H18O4
reactant | triethylamine | 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 1-pyridine-2-ylmethyl-1H-pyrazole-3-ylamine | 1.2 eq. | N1=C(C=CC=C1)CN1N=C(C=C1)N | C9H10N4
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | thionyl chloride | 1.6 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-Benzyloxy-5-isopropoxy-N-(1-pyridine-2-ylmethyl-1H-pyrazole-3-yl)-benzamide | yield of 43% | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NN(C=C2)CC2=NC=CC=C2)C=C(C1)OC(C)C | C26H26N4O3
